US07067517B2
Methyl-phenyl-carbamic acid 4-(3,5-dichloro-pyridin-4-yloxy)-phenyl ester
The title compound was prepared from 4-(3,5-dichloro-pyridine-4-yloxy)-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was purified by preparative HPLC (41%, white crystals). HPLC-MS m/z=389.1 (M+1), Rt: 4.97 min.

reactant | 4-(3,5-dichloro-pyridine-4-yloxy)-phenol | ClC=1C=NC=C(C1OC1=CC=C(C=C1)O)Cl | C11H7Cl2NO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(3,5-dichloro-pyridin-4-yloxy)-phenyl ester | ClC=1C=NC=C(C1OC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)Cl | C19H14Cl2N2O3
